US08048878B2
Synthesis of (6R*,9aS*)-6-(2-fluorophenyl)octahydroquinolizin-4-one
Platinum oxide (16 mg) was added to a solution of (6R*,9aS*)-6-(2-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one (368 mg) in methanol (8 mL), and the reaction solution was stirred in a hydrogen stream at room temperature for two hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 309 mg of the title compound. The property values of the compound are as follows.

reactant | (6R*,9aS*)-6-(2-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 368 mg | FC1=C(C=CC=C1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C15H16FNO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 8 mL | CO | CH4O
catalyst | Platinum oxide | 16 mg | [Pt]=O
product | (6R*,9aS*)-6-(2-fluorophenyl)octahydroquinolizin-4-one | 309 mg | FC1=C(C=CC=C1)[C@@H]1N2C(CCC[C@@H]2CCC1)=O | C15H18FNO
